US08202873B2
Dissolve 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (921 mg, 3.0 mmol) in N,N-dimethylacetamide (6 mL). Add potassium carbonate (996 mg, 7.2 mmol), 4-acetylbenzene boronic acid (590 mg, 3.6 mmol), tetrakis(triphenylphosphine)palladium(0) (0.0174 g, 0.015 mmol), then water (3 mL). Heat at 120° C. for 17 hr., then cool to room temperature, add water (15 mL) and extract with DCM (3×20 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®. Concentrate the filtrate and purify by SCX-2® chromatography washing with methanol then eluting with 3.5 M ammonia in methanol. Further purify (silica gel chromatography, eluting with 5:95 to 20:80 methanol:DCM), to give 1-{4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-ethanone as a yellow powder (1.135 g, 97%). MS (ES): m/z=391 [M+H]+.

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 3.0 mmol, 921 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | potassium carbonate | 7.2 mmol, 996 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-acetylbenzene boronic acid | 3.6 mmol, 590 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | water | 3 mL | O | H2O
reactant | water | 15 mL | O | H2O
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 0.0174 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-{4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-ethanone | 1.135 g, 97% | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)C(C)=O | C22H26N6O
